* Audio_AmpV3.asc
XU1 N004 N001 N002 0 out MCP6271
V1 N002 0 3.3
R2 N002 N004 100k
R3 N001 out 100k
C1 N001 out 440p
I1 N003 N005 SINE(0 3u 1000) AC 3u
C2 N001 N003 1u
R4 N002 N003 1k
R5 N005 0 1k
C4 N004 N005 1u
C3 N004 0 440p
R1 N004 0 100k
.tran 0 20ms 10ms 0.1ms
.lib MCP6271.mod
.backanno
.end